US07326791B2
N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfanylethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzamide
Prepared analogously to Example 1g from 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzoic acid, TBTU, diisopropylethylamine, and (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfanylethylamine in tetrahydrofuran. Yield: 43%; Rf value: 0.47 (silica gel: dichloromethane/ethanol=9:1); C23H23ClN4O2S (454.98); mass spectrum: (M+H)+=455/457 (chlorine isotope).

reactant | 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzoic acid | N1(CC=CC1)C(=O)C1=C(C=C(C(=O)O)C=C1)C | C13H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfanylethylamine | ClC1=CC2=C(NC(=N2)[C@H](CSC)N)C=C1 | C10H12ClN3S
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfanylethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzamide | Yield: 43% | ClC1=CC2=C(NC(=N2)[C@H](CSC)NC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O)C=C1 | C23H23ClN4O2S
